US07262198B2
2-Methyl-phenol (1 g, 9.25 mmol) in NaOH (aq) (3.24 mL, 12.96 mmol, 4M soln.) was treated with dibromoethane (2.74 mL, 31.7 mmol) and t-butylammoniumhydrogen sulfate (catalytic), and then placed in a Robbins™ oven at 99° C. for 72 hours. The pH was then adjusted to ˜8 with NaOH (4M aq. soln.) and the product extracted with CH2Cl2 (×3). The combined organic layer was washed with H2O (×2) and brine, dried over MgSO4. The resulting oil taken up in 4:1 hexane/EtOAc and passed through a plug of silica gel. The plug was then washed with 4:1 hexane/EtOAc and the filtrate concentrated to provide crude 2-bromo-1-(2-methylphenoxy)ethane.

reactant | 2-Methyl-phenol | 9.25 mmol, 1 g | CC1=C(C=CC=C1)O | C7H8O
reactant | NaOH | 12.96 mmol, 4M, 3.24 mL | [OH-].[Na+]
reactant | dibromoethane | 31.7 mmol, 2.74 mL | BrC(C)Br | C2H4Br2
reactant | t-butylammoniumhydrogen sulfate | S(=O)(=O)(O)[O-].C(C)(C)(C)[NH3+]
reactant | NaOH | 4M | [OH-].[Na+]
product | 2-bromo-1-(2-methylphenoxy)ethane | BrCCOC1=C(C=CC=C1)C | C9H11BrO
